US07897619B2
(2R)-4-(3-(Isoquinolin-6-yl)-1,2,4-oxadiazol-5-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-amine:
tert-Butyl(R)-4-(3-(isoquinolin-6-yl)-1,2,4-oxadiazol-5-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate (0.016 g, 0.03 mmol) was treated with TFA (1 mL, 13 mmol) in 1 mL DCM for 1 hour. After removing the solvent and making the remaining residue basic with 2M ammonia in MeOH, the residue was subjected to a silica gel plug using 3% 2M ammonia in MeOH in DCM as the eluant to yield an off-white solid as the desired product. LCMS (API-ES) m/z (%): 413.0 (100%, M++H); 1H NMR (400 MHz, CD3OD) δ ppm 2.07-2.18 (m, 1H) 2.22 (s, 1H) 2.95-3.03 (m, 1H) 3.05-3.13 (m, 1H) 3.17-3.28 (m, 2H) 3.48-3.58 (m, 1H) 7.52 (d, J=7.53 Hz, 2H) 7.68 (d, J=8.03 Hz, 2H) 7.95 (d, J=5.52 Hz, 1H) 8.23-8.31 (m, 2H) 8.54 (d, J=6.02 Hz, 1H) 8.64 (s, 1H) 9.33 (s, 1H).

reactant | tert-Butyl(R)-4-(3-(isoquinolin-6-yl)-1,2,4-oxadiazol-5-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | 0.03 mmol, 0.016 g | C1=NC=CC2=CC(=CC=C12)C1=NOC(=N1)CC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C27H27F3N4O3
reactant | TFA | 13 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (2R)-4-(3-(Isoquinolin-6-yl)-1,2,4-oxadiazol-5-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-amine | C1=NC=CC2=CC(=CC=C12)C1=NOC(=N1)CC[C@H](CC1=CC=C(C=C1)C(F)(F)F)N | C22H19F3N4O
